US08193228B2
1-(5-fluoro-2,3′-bipyridin-6′-yl)ethanone
Palladium tetrakis(triphenylphosphine) (289 mg, 0.25 mmol) was added to a degassed, ambient temperature solution of 2-bromopyridine (660 mg, 3.75 mmol), 1-(5-bromo-pyridin-2-yl)-ethanone (500 mg, 2.5 mmol) and hexamethylditin (1.2 g, 3.75 mmol) in degassed 1,4-dioxane (8 mL). After stirring at 110° C. overnight, the reaction mixture was cooled and KF/celite (1:1) was added. After stirring vigorously for 1 hr, reaction mixture was filtered and concentrated. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded the title compound.

reactant | 2-bromopyridine | 3.75 mmol, 660 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-(5-bromo-pyridin-2-yl)-ethanone | 2.5 mmol, 500 mg | BrC=1C=CC(=NC1)C(C)=O | C7H6BrNO
reactant | hexamethylditin | 3.75 mmol, 1.2 g | C[Sn](C)C.C[Sn](C)C
reactant | KF | [F-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium tetrakis(triphenylphosphine) | 0.25 mmol, 289 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 1-(5-fluoro-2,3′-bipyridin-6′-yl)ethanone | FC=1C=CC(=NC1)C=1C=NC(=CC1)C(C)=O | C12H9FN2O
